US09315521B2
2-{[(2-chloro-6-hydroxyphenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol
In a 250 mL round bottom flask, 2-{[(2-chloro-6-methoxyphenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (200 mg, 0.67 mmol) was dissolved in DCM (10 mL). BBr3 (1.42 mL, 1.42 mmol) was added dropwise. The resulting mixture was stirred at room temperature overnight. Water (5 mL) was added, followed by Na2SO4 (20 g) and DCM (100 mL) after 5 minutes. The solution was filtered and evaporated. The crude product was purified by column chromatography to provide the title compound as a white solid (180 mg, 95% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.06 (s, 3H), 4.48 (s, 2H), 6.02 (br, 1H), 6.83 (d, 1H), 6.93 (d, 1H), 7.15 (t, 1H), 10.44 (br, 1H); M+283.

reactant | 2-{[(2-chloro-6-methoxyphenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 0.67 mmol, 200 mg | ClC1=C(C(=CC=C1)OC)CSC1=NC(=CC(=N1)O)C | C13H13ClN2O2S
reactant | BBr3 | 1.42 mmol, 1.42 mL | B(Br)(Br)Br | BBr3
reactant | Water | 5 mL | O | H2O
reactant | Na2SO4 | 20 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-{[(2-chloro-6-hydroxyphenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 180 mg, 95% yield | ClC1=C(C(=CC=C1)O)CSC1=NC(=CC(=N1)O)C | C12H11ClN2O2S
